US09375472B2
Under nitrogen atmosphere, boron trifluoride ethyl etherate (7.90 mL, 64 mmol, 5 equiv) was added dropewise at 0° C. to a solution of α-D-mannopyranose pentaacetate (5 g, 12.8 mmol) and propargyl alcohol (2.98 mL, 51.2 mmol, 4 equiv) in anhydrous dichloromethane (150 mL) and the solution was stirred at 0° C. for 4 days. Anhydrous potassium carbonate (8 g) was added and the reaction mixture was stirred for further 1 h and filtered. The filtrate was diluted with dichloromethane (200 mL), washed with water (3×200 mL), dried over Na2SO4, filtered and concentrated to afford 2-propynyl 2,3,4,6-tetra-O-acetyl-α-D-mannopyranoside (4.95 g, quantitative yield) as a brown oil which was used without further purification. 1H NMR (400 MHz, CDCl3): δ=5.38-5.20 (m, 3H, H2,3,4), 5.02 (d, J=1.6 Hz, 1H, H1), 4.27 (dd, J=5.2, 12.2 Hz, 1H, H6), 4.26 (d, J=2.4 Hz, 2H, OCH2C≡CH), 4.10 (dd, J=2.5, 12.2 Hz, 1H, H6), 4.45-3.72 (m, 1H, H5), 2.46 (t, J=2.4 Hz, 1H, C≡CH), 2.15, 2.09, 2.03, 1.98 (4s, 4×3H, OCOCH3); 13C NMR (100.6 MHz, CDCl3): δ=170.7, 170.0, 169.9 and 169.8 (OCOCH3), 96.4 (CO, 78.0 (C≡C—H), 75.7 (C≡C—H), 69.5 (C5), 69.1 (C4), 69.0 (C3), 66.2 (C2), 62.5 (C6), 55.1 (OCH2C≡C—H), 20.9, 20.8×2 and 20.7 (OCOCH3); MS (ESI): m/z=409.0 [M+Na]+.

reactant | boron trifluoride ethyl etherate | 64 mmol, 7.90 mL, 5 equiv | B(F)(F)F.CCOCC
reactant | α-D-mannopyranose pentaacetate | 12.8 mmol, 5 g | C(C)(=O)O[C@@H]1[C@@H](OC(C)=O)[C@@H](OC(C)=O)[C@H](OC(C)=O)[C@H](O1)COC(C)=O | C16H22O11
reactant | propargyl alcohol | 51.2 mmol, 2.98 mL, 4 equiv | C(C#C)O | C3H4O
reactant | potassium carbonate | 8 g | C([O-])([O-])=O.[K+].[K+]
solvent | dichloromethane | 150 mL | ClCCl | CH2Cl2
product | 2-propynyl 2,3,4,6-tetra-O-acetyl-α-D-mannopyranoside | 4.95 g, quantitative yield | C(C)(=O)O[C@@H]1[C@@H](OCC#C)O[C@@H]([C@H]([C@@H]1OC(C)=O)OC(C)=O)COC(C)=O | C17H22O10
